US06110943
(S)-{1-Benzyl-2-[4-hydroxy-4-(3-methoxy-thiophen-2-yl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester
2.513 g (10 mmol) of (S)-(-)-2-(t-Butoxycarbonylamino)-3-phenyl-1-propanol was added at once to a magnetically stirred solution of 2.885 g (11 mmol) triphenylphosphine in tetrahydrofuran (100 mL) at 0° C. Thereafter 1.9 mL (12 mmol) diethyl azodicarboxylate was added dropwise over 3 minutes while the temperature was maintained between 0 and 5° C. This was immediately followed by adding a solution of 2.14 g (10 mmol) of 4-hydroxy-4-(3-methoxy-thiophen-2-yl)-piperidine in 100 mL tetrahydrofuran. The reaction mixture was stirred at ambient temperature overnight, evaporated in vacuo to dryness and the residue flash chromatographed on 300 g silica gel using chloroform as eluant yielding 2.6 g of the title compound as a faintly yellow dense oil.

reactant | (S)-(-)-2-(t-Butoxycarbonylamino)-3-phenyl-1-propanol | 10 mmol, 2.513 g | C(C)(C)(C)OC(=O)N[C@H](CO)CC1=CC=CC=C1 | C14H21NO3
reactant | triphenylphosphine | 11 mmol, 2.885 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 12 mmol, 1.9 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-hydroxy-4-(3-methoxy-thiophen-2-yl)-piperidine | 10 mmol, 2.14 g | OC1(CCNCC1)C=1SC=CC1OC | C10H15NO2S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (S)-{1-Benzyl-2-[4-hydroxy-4-(3-methoxy-thiophen-2-yl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester | 2.6 g | C(C)(C)(C)OC(N[C@H](CN1CCC(CC1)(C=1SC=CC1OC)O)CC1=CC=CC=C1)=O | C24H34N2O4S
